US06451810B1
2-Chloro-1H-benzimidazole (10.0 g, 0.066 mol), pyrrolidine (18.5 g, 0.26 mol), and ethanol (100 mL) were combined. The resulting solution was heated at 160-170° C. for 6 hours and then the solvent was evaporated. The resulting residue was mixed with water. The mixture was made strongly acidic with hydrochloric acid and then made basic with ammonium hydroxide. The resulting solid was isolated by filtration, washed with water and then air dried to provide 11.8 g of crude product as a tan powder. This material was recrystallized from ethyl acetate/methanol to provide 4.9 g of 2-pyrrolidino-1H-benzimidazole. Analysis: Calculated for C11H13N3: %C, 70.56; %H, 7.00; %N, 22.44; Found: %C, 70.13; %H, 7.05; %N, 22.70.

reactant | 2-Chloro-1H-benzimidazole | 0.066 mol, 10.0 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | pyrrolidine | 0.26 mol, 18.5 g | N1CCCC1 | C4H9N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-pyrrolidino-1H-benzimidazole | 4.9 g | N1(CCCC1)C1=NC2=C(N1)C=CC=C2 | C11H13N3
